US05173497
To a stirred (-78° C.) solution of sec-butyllithium (1.3M in cyclohexane; 6.6 ml) and TMEDA (1.3 ml) in anhydrous ether (4.0 ml) was added via canula under a N2 atmosphere a solution of 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (1.69 g), in anhydrous ether (4.0 ml). The solution was stirred at -78° C. for 2.5 hours and then added via canula, under N2, to a stirred (-78° C.) solution of N,N-diethylamino-oxo-acetic acid, ethyl ester (3.6 g) in diethyl ether (8.0 ml). The solution was stirred at -78° C. for 3 hours and gradually allowed to warm to room temperature over 2 hours. The mixture was quenched by the addition of an aqueous solution of saturated NH4Cl. The organic phase was separated and washed with two 50 ml portions of an aqueous solution of saturated NaHCO3, with brine, and dried (Na2SO 4). The crude residue was purified using preparative HPLC (silica gel, loading and eluting with 3% methanol in dichloromethane). The appropriate fractions were combined and concentrated to a foam which solidied upon trituration with hexane, to afford 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, diethyl amide.

reactant | sec-butyllithium | 1.3M, 6.6 ml | C(C)(CC)[Li]
reactant | TMEDA | 1.3 ml | CN(C)CCN(C)C | C6H16N2
reactant | 5-bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 1.69 g | BrC=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17BrN2
reactant | N,N-diethylamino-oxo-acetic acid, ethyl ester | 3.6 g | C(C)N(CC)C(C(=O)OCC)=O | C8H15NO3
solvent | ether | 4.0 ml | CCOCC | C4H10O
solvent | ether | 4.0 ml | CCOCC | C4H10O
solvent | diethyl ether | 8.0 ml | C(C)OCC | C4H10O
product | 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, diethyl amide | C(C)N(C(C(C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C)=O)=O)CC | C19H27N3O2
